US06579875B1
A solution of cis-3-benzyloxy-1-methanesulfonyloxycyclobutane (1.25 g, 4.8 mmol) and sodium iodide (2.16 g, 14.4 mmol) in dry acetone (20 ml) was refluxed under nitrogen for 3.5 days. The mixture was cooled and diluted with diethyl ether (150 ml). The suspension was filtered and the filtrate was concentrated. The residue was dissolved in ethyl acetate and filtered through a plug of silica gel, eluting with ethyl acetate to give trans-3-benzyloxy-1-iodocyclobutane (1.19 g, 86%) as an orange oil; 1H NMR (250 MHz, CDCl3) δ2.54-2.65 (2H, m), 2.94-3.04 (2H, m), 3.85-4.06 (2H, m), 4.40 (2H, s), 7.26-7.38 (5H1 m).

reactant | cis-3-benzyloxy-1-methanesulfonyloxycyclobutane | 4.8 mmol, 1.25 g | C(C1=CC=CC=C1)O[C@H]1C[C@H](C1)OS(=O)(=O)C | C12H16O4S
reactant | sodium iodide | 14.4 mmol, 2.16 g | [I-].[Na+]
solvent | acetone | 20 ml | CC(=O)C | C3H6O
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
product | trans-3-benzyloxy-1-iodocyclobutane | 1.19 g, 86% | C(C1=CC=CC=C1)O[C@@H]1C[C@H](C1)I | C11H13IO
